US05432169
To a mixture of 0.70 g of N-Methylmorpholine-N-oxide, 6.5 ml of water, 13.7 ml of acetone and 1.64 ml of a 0.06 M ethereal osmium tetroxide solution, 2.0 g of 3β-prop-2-enoxy-17β(3-furyl)-5β-androstan-14β-ol, prepared as an intermediate in Ex.2, dissolved in 29 ml of tert-butanol were added at room temperature. The mixture was left on standing for 20 hrs, 50 ml of a saturated sodium hydrosulfite solution and 2.0 g of celite were added, the mixture was stirred for 2 hrs and then filtered. The organic solvent was distilled under reduced pressure, the aqueous phase was extracted with methylene chloride, the organic layer was dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The crude product was purified by flash-chromatography (SiO2) using n-hexane/ethyl acetate 20/80 as eluant to give 1.8 g of 3β-(2,3-dihydroxypropoxy)-17β-(3-furyl)-5β-androstan-14β-ol as a white solid.

reactant | N-Methylmorpholine-N-oxide | 0.70 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 6.5 ml | O | H2O
reactant | 3β-prop-2-enoxy-17β(3-furyl)-5β-androstan-14β-ol | 2.0 g | C(C=C)O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O | C26H38O3
reactant | sodium hydrosulfite | 50 ml | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | tert-butanol | 29 ml | C(C)(C)(C)O | C4H10O
catalyst | osmium tetroxide | 0.06 M | [Os](=O)(=O)(=O)=O
solvent | acetone | 13.7 ml | CC(=O)C | C3H6O
product | 3β-(2,3-dihydroxypropoxy)-17β-(3-furyl)-5β-androstan-14β-ol | 1.8 g | OC(CO[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O)CO | C26H40O5
